US07858679B2
Synthesis of N-methacryloyl 3,4-dihydroxyl-L-phenylalanine
1.15 g (5.69 mmol) of Na2B4O7 was dissolved in 30 ml of water. The solution was degassed with Ar for 30 minutes, after which 0.592 g (3.0 mmol) of L-DOPA was added and stirred for 15 minutes. 0.317 g (3.0 mmol) of Na2CO3 was then added, the solution was cooled to 0° C., and 0.3 ml (3.0 mmol) of methacryloyl chloride was slowly added with stirring. The pH of the solution was maintained above 9 with Na2CO3 during the reaction. After stirring for 1 hour at room temperature, the solution was acidified to pH of 2 with concentrated HCl. The mixture was extracted with ethyl acetate three times. After washing with 0.1 N HCl and drying over anhydrous MgSO4, the solvent was removed in vacuo to yield crude light brown solid. The product was further purified by elution from a silica gel column with dichloromethane (DCM) and methanol (95:5). After evaporating the solvent, a white, sticky solid was obtained with a product yield of 35%. 1HNMR (500 MHz, acetone-d6): ÿ 7.1 d (1H, —NH—); 6.6-6.8 (3H, C6H3(OH)2—); 5.68 s (1H, CHH═); 5.632 s (unknown peak); 5.33 s (1 H, CHH═); 4.67 m (1H, —CH—); 2.93-3.1 m (2H, CH2—); 1.877 s (3 H, —CH3).

reactant | L-DOPA | 3.0 mmol, 0.592 g | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | Na2CO3 | 3.0 mmol, 0.317 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methacryloyl chloride | 3.0 mmol, 0.3 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | HCl | Cl | ClH
solvent | water | 30 ml | O | H2O
product | N-methacryloyl 3,4-dihydroxyl-L-phenylalanine | yield of 35% | C(C(=C)C)(=O)N[C@@H](CC1=CC(=C(C=C1)O)O)C(=O)O | C13H15NO5
